US04377522
17 g (0.052 mol) of 7-amino-5-(o-chlorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one in 100 ml of glacial acetic acid are treated slowly with a solution of 4 g of chlorine gas in 50 ml of glacial acetic acid. The reaction mixture is stirred at room temperature, evaporated after 60 minutes and the residue is treated with aqueous ammonia and methylene chloride. After extracting the aqueous phase with methylene chloride, the organic extract is dried and evaporated. The crude product is purified by chromatography on 600 g of silica gel with methylene chloride and methylene chloride/ethyl acetate (5:1) as the elution agent. From ethyl acetate/ether/n-hexane there is obtained 7-amino-6-chloro-5-(o-chlorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one of melting point 195°-196°.

reactant | 7-amino-5-(o-chlorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | 0.052 mol, 17 g | NC=1C=CC2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)Cl)C1 | C18H18ClN3O
reactant | chlorine | 4 g | ClCl | Cl2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 7-amino-6-chloro-5-(o-chlorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)Cl)C1Cl | C18H17Cl2N3O
